2113-10-07 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given oxycodone 5mg Q4h for pain; didn't feel like pain is controlled
   -- gave lidocaine patches as well
   - gave phenergan for nausea
   - cannot get sitter due to hospital resources but really needs one
   - nicotine patch
   - 20mg of IV valium Q20min based on CIWA protocol
 agitation did not
   improve after significant number of doses
   - IV NS boluses x7 Liters but urine output continues at 40cc/hr (goal
   UOP for rhabdo is 200cc/hr); improved to 100cc/hr by 5am ; improved to
   200cc/hr by 7am
   - very difficult to control overnight for nursing; lots of
   hallucinations, not staying in bed appropriately, becoming less
   oriented
   - HR decreasing to 90s by 4am, but pt still agitated and difficult to
   control; HR down to 80s by 5am and pt appears to be resting
   - Psych on Call in ER was called to see patient in early AM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Anaphylaxis;
   Zyprexa (Oral) (Olanzapine)
   hypoglycemia;
   Depakote (Oral) (Divalproex Sodium)
   tremor;
   Acetaminophen
   Unknown;
   Chlorpromazine
   Anaphylaxis;
   Ketorolac
   tongue swelling
   Trazodone
   erection
   "hang
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2113-10-7**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-7**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 97 (88 - 130) bpm
   BP: 140/91(102) {92/48(68) - 152/111(115)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,063 mL
                                                                  4,606 mL
   PO:
                                                                    480 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  7,583 mL
                                                                  4,326 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                  1,380 mL
   Urine:
                                                                    579 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,484 mL
                                                                  3,226 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GEN: alert, oriented to month, year, person but not to place; very
   wrestless, more agitated than yesterday,  non-violent
   HEENT: pupils dilated about 4mm symmetrically, pupillary reflex to
   light intact; EMOI; no focal signs of tenderness on head, no hematoma
   or skin tears
   CHEST: clear to auscultation bilaterally; regular rhythm, rates 110s
   ABD: soft, nontender, nondistended
   BACK: low lumbar tenderness to palpation
   EXT: tender right ankle, a little swollen; 2+ symmetric reflexes in
   lower extremities; positive straight leg raise test bilaterally, but
   difficult to examine
   Labs / Radiology
   93 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   13 mg/dL
   111 mEq/L
   138 mEq/L
        [image002.jpg]
                            [**2113-10-6**]  05:43 PM
                            [**2113-10-6**]  11:59 PM
   Cr
   0.8
   0.7
   Glucose
   82
   93
   Other labs: CK / CKMB / Troponin-T:6335//, ALT / AST:103/167,
   Albumin:3.3 g/dL, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   30yo M s/p overdose on multiple hallucinogens, presenting s/p multiple
   seizures and a fall having complaints of palpitations.
   # Overdose / Intoxication:
   Patient has overdose on multiple hallucinogens and amphetamines in
   addition to rohypnol.  Tachycardia persists but improved w IV valium.
   Pt received significant amount of IV valium overnight with worsening
   delirium in addition to his hallucinations and altered mental status
   from the original overdose.
   - supportive care
   - Appreciate Psych Recs
   - DC IV Valium.
   - Test dose of Zyprexa or Zydus to see if pt really has
   hypoglycemia
likely has hyperglycemia which we can tolerate in this
   setting
   - monitor for serotonin-like syndrome and hyperthermia
   - IVF hydration
   # Rhabdomyolysis:
   Secondary to overdose on amphetamines/PCP [**Name Initial (PRE) 1418**]. CK elevated to 5000s,
   decreased from 11,000 at outside hospital.  Out of the danger zone, and
   kidneys do not show any mal effect.
   - Normal Saline, titrating urine output to >200ccs/hr to protect
   kidneys until this afternoon, then can slowly taper down fluids
   - [**Hospital1 7**] electrolytes
   - monitor for hyponatremia, electrolyte imbalance
   - LFTs improving, likely secondary to the rhabdo
   # Seizures:
   Likely secondary to the mix of drugs he has taken.  Not likely to
   withdraw from any of these drugs; did not take any alcohol or benzos,
   except Rufenol.
   - pt has received a significant amount of diazepam which should last
   for a long time due to the long half life of the active metabolite, so
   it should very slowly wear off, so he should not seize
   .
   # Leukocytosis:
   Likely related to the ingestion of these illicit drugs. UA negative for
   infection, and no other source of infection likely, though should
   monitor for infection.
   - culture if spikes, though likely that temp would be from hyperthermia
   related to drugs
   # s/p Fall:
   Had fallen down stairs when having seizures and hit his head. Also fell
   outside.  Has significant occipital pain. No focal neurologic signs
   clinically but difficult to examine patient because so wrestless.
   Still cannot tolerate CT scan
   - Consider Head CT to r/o bleed when stable
   - plain films of back
   - plain films of ankle
   - Pain control w oxycodone 5mg Q4h prn
   # Mood/Psych:
   Denies suicidal intentions, but he has overdosed on so many medications
   so many times
   - appreciate psychiatry recs again and addiction team recs when mental
   status is back to baseline
   # Hepatitis C:
   Hx of Hep C, presumed to be stable. Not a candidate for interferon
   therapy
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-6**] 03:06 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:

2113-10-07 09:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: multidrug overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   30yo M with multidrug overdose including PCP, [**Name10 (NameIs) 10778**], ecstasy, DMT,
   adderall and ruphenol who was admitted hallucinations, tachycardia and
   hypertension.
   24 Hour Events:
   Treated aggressively with benzodiazepines overnight with minimal
   improvement.  Psychiatry consulted early this morning.  Now with 1:1
   security sitter.  Aggressively resuscitated with IVF boluses.  This
   morning expressed suicidal intention with overdose.
   History obtained from Patient
   Allergies:
   Haldol (Oral) (Haloperidol)
   Anaphylaxis;
   Zyprexa (Oral) (Olanzapine)
   hypoglycemia;
   Depakote (Oral) (Divalproex Sodium)
   tremor;
   Acetaminophen
   Unknown;
   Chlorpromazine
   Anaphylaxis;
   Ketorolac
   tongue swelling
   Trazodone
   erection
   "hang
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2113-10-7**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-7**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 89 (88 - 130) bpm
   BP: 147/66(85) {92/48(68) - 152/111(115)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,063 mL
                                                                  4,621 mL
   PO:
                                                                    480 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  7,583 mL
                                                                  4,341 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                  1,930 mL
   Urine:
                                                                    579 mL
                                                                  1,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,484 mL
                                                                  2,691 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: agitated, tremulous
   Eyes / Conjunctiva: equal, reactive
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   221 K/uL
   84 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   32.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2113-10-6**]  05:43 PM
                            [**2113-10-6**]  11:59 PM
                            [**2113-10-7**]  08:00 AM
   WBC
   10.6
   Hct
   32.4
   Plt
   221
   Cr
   0.8
   0.7
   0.8
   Glucose
   82
   93
   84
   Other labs: CK / CKMB / Troponin-T:5936//, ALT / AST:112/168, Alk Phos
   / T Bili:63/1.5, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 Multidrug Overdose
   - ongoing agitation and intermittent panic attacks
   - possibly now with benzo intoxication
   - appreciate psychiatry input, will hold valium and use zydis prn with
   close blood sugar monitoring
   - plan social work/addictions consult once out of acute phase
 Rhabdomyolysis
   - no evidence of renal tubular damage
   - will keep well-hydrated with IVF until PO improved
   - CK now 5900, much improved
 Suicidal Ideation
   - psychiatry following
   - 1:1 sitter at all times
 Transaminitis
   - possibly due to rhabdo
 Tachycardia
   - likely drug effect with likely volume depletion component
   - improved significantly, though still tachycardic
 Leukocytosis
   - likely stress response with component of hemoconcentration
   - improved
? Seizures
   - no witnessed seizures here, but possible witnessed panic attacks
   - follow closely
Chronic pain
   - minimizing additional drugs but continue oxycodone prn
   - lidocaine patches
S/p Fall
   - no focal findings, not stable for imaging
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-10-6**] 03:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: Has estranged wife, has not been in contact
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2113-10-08 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Refused zyprexa again in the evening b/c he states it will make him
   hypoglycemic 3 days after his dose. Monitored finger sticks and OK.
   (79-101)
   - Overnight pt became aggressive and threatened to harm staff and self,
   stating he would throw this RN and the security guard out the window
   and then jump himself. After multiple episodes of escalating intensity
   a code purple was called when Mr. [**Known lastname 10781**] started slapping himself in
   the head, he was placed in 4 point leather restraints and received 10mg
   IM zyprexa after which he began to calm down and eventually fell
   asleep.
   - Multiple attempts to obtain lytes were unsuccessful (ICU team
   aware).
   - His EKG revealed a QTc of 460
   Psych following: Worsening delerium all likely secondary to 530 mg of
   IV valium he received along with his other drugs he has taken.
   Continue to re-direct when patient gets agitated. Zydis prn and monitor
   BS. NO MORE BENZOS!
   Allergies:
   Haldol (Oral) (Haloperidol)
   Anaphylaxis;
   Zyprexa (Oral) (Olanzapine)
   hypoglycemia;
   Depakote (Oral) (Divalproex Sodium)
   tremor;
   Acetaminophen
   Unknown;
   Chlorpromazine
   Anaphylaxis;
   Ketorolac
   tongue swelling
   Trazodone
   erection
   "hang
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-8**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 78 (74 - 119) bpm
   BP: 124/75(87) {124/32(52) - 149/97(105)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  6,741 mL
                                                                    240 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  5,541 mL
   Blood products:
   Total out:
                                                                  7,680 mL
                                                                  1,130 mL
   Urine:
                                                                  7,680 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -890 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN: alert, oriented to month, year, person but not to place; very
   wrestless, more agitated than yesterday,  non-violent
   HEENT: pupils dilated about 4mm symmetrically, pupillary reflex to
   light intact; EMOI; no focal signs of tenderness on head, no hematoma
   or skin tears
   CHEST: clear to auscultation bilaterally; regular rhythm, rates 110s
   ABD: soft, nontender, nondistended
   BACK: low lumbar tenderness to palpation
   EXT: tender right ankle, a little swollen; 2+ symmetric reflexes in
   lower extremities; positive straight leg raise test bilaterally, but
   difficult to examine
   Labs / Radiology
   221 K/uL
   11.8 g/dL
   84 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   32.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2113-10-6**]  05:43 PM
                            [**2113-10-6**]  11:59 PM
                            [**2113-10-7**]  08:00 AM
   WBC
   10.6
   Hct
   32.4
   Plt
   221
   Cr
   0.8
   0.7
   0.8
   Glucose
   82
   93
   84
   Other labs: CK / CKMB / Troponin-T:5936//, ALT / AST:112/168, Alk Phos
   / T Bili:63/1.5, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   30yo M s/p overdose on multiple hallucinogens, presenting s/p multiple
   seizures and a fall having complaints of palpitations.
   # Overdose / Intoxication:
   Patient has overdose on multiple hallucinogens and amphetamines in
   addition to rohypnol.  Tachycardia improved w valium and fluids.. Pt
   received significant amount of IV valium Friday night with worsening
   delirium in addition to his hallucinations and altered mental status
   from the original overdose.  Patient acutely escalated since he did not
   receive ativan and calmed with zyprexa.
   - supportive care
   - Appreciate Psych Recs
   - DC IV Valium.
   - Continue low dose zydis with careful monitoring of qt interval. [**Month (only) 51**]
   need to d/w psych other alternatives if prolongs
   - Use leather 4 point restraints if patient becomes a threat to himself
   or others around him if absolutely necessary.
   - PO hydration as patient has no more access
   - Regular q 4 hour finger sticks as patient
allergy
 to zyprexa is
   hypoglycemia.
   - Continue 1:1 sitter
   -
   # Rhabdomyolysis:
   Secondary to overdose on amphetamines/PCP [**Name Initial (PRE) 1418**]. CK elevated to 5000s,
   decreased from 11,000 at outside hospital.  Out of the danger zone, and
   kidneys do not show any mal effect; although unable to get any labs on
   patient.
   - No more IVF
s; as patient does not have any access
encourage PO
   intake.
   - Will get labs now.
   - monitor for hyponatremia, electrolyte imbalance
   - LFTs improving, likely secondary to the rhabdo
   - If labs are normal; patient will be medically cleared and able to go
   to pscyh [**Hospital1 **] for more appropriate monitoring
   # Seizures:
   Likely secondary to the mix of drugs he has taken.  Questionable
   seizure history as patient had what appeared to be a pseudoseizure. Not
   likely to withdraw from any of these drugs; did not take any alcohol or
   benzos, except Rufenol.
   - pt has received a significant amount of diazepam which should last
   for a long time due to the long half life of the active metabolite, so
   it should very slowly wear off, so he should not seize
   .
   # Leukocytosis: unclear of trend as have not had labs drawn. Likely
   related to the ingestion of these illicit drugs. UA negative for
   infection, and no other source of infection likely. Likely related to
   acute stress response. As it has come back down.
   - culture if spikes
   - trend wbc
   # s/p Fall:
   Had fallen down stairs when having seizures and hit his head. Also fell
   outside.  Has significant occipital pain. No focal neurologic signs
   clinically but difficult to examine patient because so wrestless.
   Still cannot tolerate CT scan
   - Consider Head CT to r/o bleed when stable
   - plain films of back
   - plain films of ankle
   - Do not give narcotics for pain control
possibly consider ultram.
   # Mood/Psych:Intermittently admits to suicidal ideations, and he has
   overdosed on so many medications so many times. Appears to have
   underlying mood disorders; panic attacks, depression, etc.
   - appreciate psychiatry recs again and addiction team recs when mental
   status is back to baseline
   - Continue 1:1 sitter
   - likely transfer to psych today
   # Hepatitis C:
   Hx of Hep C, presumed to be stable. Not a candidate for interferon
   therapy
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  FSBS: 75-148
   Lines:
   20 Gauge - [**2113-10-6**] 03:06 PM: Pulled out yesterday; no access
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Possible [**Hospital1 **] 4 as medically cleared

2113-10-08 09:37:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: multidrug overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   30yo M with multidrug overdose admitted with CK of 9000 and
   agitation/hallucinations, now with likely benzodiazepine intoxication.
   24 Hour Events:
   Code purple and put in locked leather restraints with IM zyprexa, was
   hitting himself.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Anaphylaxis;
   Zyprexa (Oral) (Olanzapine)
   hypoglycemia;
   Depakote (Oral) (Divalproex Sodium)
   tremor;
   Acetaminophen
   Unknown;
   Chlorpromazine
   Anaphylaxis;
   Ketorolac
   tongue swelling
   Trazodone
   erection
   "hang
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  Patient reports h/o gastric
   ulcers in the past.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Patient complaining this morning of some epigastric
   pain.
   Flowsheet Data as of  [**2113-10-8**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 80 (74 - 119) bpm
   BP: 124/75(87) {124/32(52) - 149/97(105)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  6,741 mL
                                                                    480 mL
   PO:
                                                                  1,200 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  5,541 mL
   Blood products:
   Total out:
                                                                  7,680 mL
                                                                  1,355 mL
   Urine:
                                                                  7,680 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -939 mL
                                                                   -875 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen
l: awake, calm, oriented to
[**Hospital3 **]
 and
[**10-8**]^th
   Heent: anicteric, mmm, pupils equal and reactive
   CV: regular, no murmurs/rubs/gallops
   Pulm: clear to ascultation bilaterally, no wheezes/rhonchi/rales
   Abdomen: soft, non-tender, non-distended, (+) bowel sounds
   Extermities: no edema
   Mental status: no agitation, oriented, fluent speech, no hallucinations
   Neurologic: strength 5/5 throughout, sensation intact, CN II-XII intact
   Labs / Radiology
   11.8 g/dL
   221 K/uL
   84 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   32.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2113-10-6**]  05:43 PM
                            [**2113-10-6**]  11:59 PM
                            [**2113-10-7**]  08:00 AM
   WBC
   10.6
   Hct
   32.4
   Plt
   221
   Cr
   0.8
   0.7
   0.8
   Glucose
   82
   93
   84
   Other labs: CK / CKMB / Troponin-T:5936//, ALT / AST:112/168, Alk Phos
   / T Bili:63/1.5, Albumin:3.3 g/dL, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 Multidrug overdose, agiation
   - now likely complicated by valium intoxication
   - on zydis/zyprexa, agitation much improved today
   - re-check EKG today for QT
   - restraints only if absolutely necessary
 Rhabdomyolysis
   - will draw labs this morning to check creatinine and CK
   - taking good PO, no IV access for further IVF
 Tachycardia
   - much improved, likely combination of stimulant use and volume
   depletion
Abdominal pain
   - reports h/o ulcers
   - will start PPI today, check CBC
Fall with ? LOC, seizures
   - neuro exam non-focal
   - no seizures witnessed here
 Suicidal ideation
   - psychiatry is following, denies this morning
   - 1:1 sitter
Leukocytosis
   - recheck CBC this morning, likely stress reaction + hemoconcentration
Chronic pain
   - ultram if necessary
   - not in apparent pain this morning
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes